US05925676
By using 0.85 g of (RS)-3-(3-trimethylsilyl-2-propynyl)-3-cyclopenten-1-yl (t-butyldimethylsilyl) ether and 8.5 ml of 1 M tetrahydrofuran solution of tetrabutylammonium fluoride and by the same procedures as in (5) of the intermediate preparation example 1, there was obtained 128 mg of (RS)-3-propargyl-3-cyclopenten-1-ol. Yield 37%

reactant | (RS)-3-(3-trimethylsilyl-2-propynyl)-3-cyclopenten-1-yl (t-butyldimethylsilyl) ether | 0.85 g | [Si](C)(C)(C(C)(C)C)OC1CC(=CC1)CC#C[Si](C)(C)C | C17H32OSi2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1 M, 8.5 ml | O1CCCC1 | C4H8O
product | (RS)-3-propargyl-3-cyclopenten-1-ol | 128 mg, Yield 37% | C(C#C)C=1CC(CC1)O | C8H10O
